US07795282B2
Step F: Preparation of 3-(5-(2,5-difluorophenyl)-3-(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propan-1-amine.
To a solution of 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (0.046 g, 0.090 mmol) in 2 mL of methanol was added 1N HCl/MeOH (0.27 mL, 0.27 mmol) followed by 10% Pd/C (10 mg). The mixture was hydrogenated under a balloon atmosphere for 1 hour then filtered through GF paper and the filtrate concentrated in vacuo. The residue was triturated with diethyl ether, filtered, washed with ether and dried in vacuo to afford the desired product as a bright yellow solid (0.027 g, 50%). MS ESI (+) m/z 486 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 7.59 (m, 1H), 7.45 (d, 2H, J=7.6 Hz), 7.32 (m, 2H), 7.26 (m, 1H), 7.06 (m, 2H), 3.50 (m, 2H), 3.43 (m, 1H), 2.77 (t, 2H, J=6.9 Hz), 2.68 (m, 2H), 2.56 (m, 2H), 2.46 (s, 3H), 2.41 (m, 1H), 1.99 (m, 1H), 1.55 (m, 1H) ppm.

reactant | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.090 mmol, 0.046 g | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=2CN(CCC2N1)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C24H23F2N7S2
reactant | HCl MeOH | 0.27 mmol, 1N, 0.27 mL | Cl.CO
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 3-(5-(2,5-difluorophenyl)-3-(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)propan-1-amine | 0.027 g, 50% | FC1=C(C=C(C=C1)F)C1=NN(C(S1)(C1=CC=CC=C1)CCCN)C=1SC=2CN(CCC2N1)C | C24H25F2N5S2
